US04943568
Ethyl 4-bromo-3-oxovalerate
277 g of bromine are added dropwise to a solution of 250 g of ethyl 3-oxovalerate and 0.5 g of p-toluenesulphonic acid in 55 ml of methyl chloride at room temperature, while stirring. The mixture is subsequently stirred at 30° C. for one hour, ice-water is added and the organic phase is separated off. The aqueous phase is extracted once more with methylene chloride and the combined organic phases are then dried over magnesium sulphate and evaporated. The product is further processed in the crude form.

reactant | bromine | 277 g | BrBr | Br2
reactant | ethyl 3-oxovalerate | 250 g | O=C(CC(=O)OCC)CC | C7H12O3
reactant | p-toluenesulphonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methyl chloride | 55 ml | CCl | CH3Cl
product | Ethyl 4-bromo-3-oxovalerate | BrC(C(CC(=O)OCC)=O)C | C7H11BrO3
